US04588749
N-(3-(4-Methylphenyl)propyl)-2-hydroxy-2-phenylethanamine
The title compound was prepared in the manner described in Example 9 using phenylglyoxal and 3-(4-Methylphenyl)propanamine. Recrystallization of the chromatographed material from benzene-hexane gave the title compound m.p. 114-116. τ(CDCL3) 8.15 (2H, m), 7.7 (3H, s), 6.9-7.5 (6H, m+2H, disappears with D2O), 5.3 (1H, m), 2.9 (4H, s), 2.7 (5H, m).

reactant | phenylglyoxal | C1(=CC=CC=C1)C(=O)C=O | C8H6O2
reactant | 3-(4-Methylphenyl)propanamine | CC1=CC=C(C=C1)CCCN | C10H15N
product | N-(3-(4-Methylphenyl)propyl)-2-hydroxy-2-phenylethanamine | CC1=CC=C(C=C1)CCCNCC(C1=CC=CC=C1)O | C18H23NO
